US08029919B2
b) 2-(Phenothiazin-10-yl)phenyl benzoate
16.0 g (114 mmol) of benzoyl chloride were added dropwise at 0-5° C. with stirring to a solution of 4.00 g (13.7 mmol) of 10-(2-hydroxyphenyl)phenothiazine in 24 ml of pyridine within 30 min. After stirring at room temperature for 2 h, the reaction solution was heated to 60-65° C. and stirred at this temperature for 15 min. After cooling to room temperature, the suspension was then stirred overnight. After adding 300 ml of ice-water, the suspension was admixed slowly with 19 ml of conc. hydrochloric acid (pH 0.9) and stirred for 1 h. The suspension was filtered through a glass frit. The residue was washed to neutrality with 2 l of water and dried at 60° C. under reduced pressure. 2.87 g (53% of theory) of colorless microcrystals having a melting point of 144-148° C. were obtained.

reactant | benzoyl chloride | 114 mmol, 16.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 10-(2-hydroxyphenyl)phenothiazine | 13.7 mmol, 4.00 g | OC1=C(C=CC=C1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C18H13NOS
reactant | hydrochloric acid | 19 ml, pH 0.9 | Cl | ClH
solvent | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
product | 2-(Phenothiazin-10-yl)phenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C25H17NO2S
